US07030141B2
Step 5: Pyrrolidine-2-carboxylic acid (3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-amide
2-(3-Fluoro-2′-methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.45 g, 0.93 mmol) was dissolved in 15 mL DCM and 15 mL trifluoroacetic acid and the resulting mixture was stirred at ambient temperature for 1 hour. The mixture was concentrated, and the residue was redissolved in 100 mL EtOAc, washed with sat. NaCl, dried with MgSO4, filtered and concentrated to yield title compound as an oil. (0.27 g, 80%) APCI (AP−): 361.1 (M−H)−.

reactant | 2-(3-Fluoro-2′-methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.93 mmol, 0.45 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)F)=O | C23H27FN2O5S
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | Pyrrolidine-2-carboxylic acid (3-fluoro-2′-methanesulfonyl-biphenyl-4-yl)-amide | FC=1C=C(C=CC1NC(=O)C1NCCC1)C1=C(C=CC=C1)S(=O)(=O)C | C18H19FN2O3S
